US05637669
The triphenylenes, azatriphenylenes, hexa(4-substituted benzoates) of triphenylene and multi((phenyl)alkynyl)triphenylenes are generally prepared by reaction of veratrole, chloranil and 70% v/v aqueous sulfuric acid or by reaction of veratrole, ferric chloride and water to give 2,3,6,7,10,11,-hexamethoxytriphenylene (demethylation with hydrobromic acid and acetic acid or boron tribromide and benzene provides the corresponding hexaphenol). Reaction of the Grignard reagent from 4,4'-dimethyl-2-fluoro-2'-iodobiphenyl and magnesium using tetrahydrofuran solvent with o-fluorobromobenzene, 4-chloro-3-iodotoluene, 4-chloro-3-iodoanisole, 3-chloro-2-iodotoluene or 2-fluoro-3,5-dimethylbromobenzene gives 2,7-dimethyltriphenylene, 2,6,11-trimethyltriphenylene, 6,11-dimethyl-2-methoxytriphenylene, 1,6,11-trimethyltriphenylene or 1,3,6,11-tetramethyltriphenylene, respectively. Reaction of the organo lithium compound from 4,4'-dimethyl-2-fluoro-2'-iodobiphenyl and n-butyllithium using ether solvent with o-fluorobromobenzene, 4-chloro-3-iodotoluene or 2-fluoro-4,5-dimethylbromobenzene gives 2,7-dimethyltriphenylene, 2,6,11-trimethyltriphenylene and 2,3,6,11-tetramethyltriphenylene, respectively. Oxidation of the methyl group provides the carboxylic acid group while demethylation of the methoxy group provides the phenolic hydroxyl group. Reaction of 3,4,3',4'-tetrapentoxybenzil, potassium t-butoxide and acetone in ethanol solvent provides 3,4-bis(3,4-dipentoxyphenyl)-4-hydroxy-2-cyclopenten-1-one. Elimination of water produces the corresponding cyclopentadienone which then is reacted with dimethyl acetylenedicarboxylate in chlorobenzene solvent to provide the Dieis-Alder adduct, dimethyl-3,4,3",4"-tetrapentoxy-o-terephenyl-4',5'-dicarboxylate. Photolysis with iodine in benzene solvent provides 6,7,10,11-tetrapentoxytriphenylene-2,3-dicarboxylate. Demethylation of the methoxy group provides the phenolic hydroxyl group while hydrolysis of the carboxylic acid ester group provides the carboxylic acid group. Reaction of triphenylene with excess bromine using iron powder as catalyst and nitrobenzene solvent provides 2,3,6,7,10,11-hexabromotriphenylene. Nucleophilic aromatic substitution of the hexabromotriphenylene provides access to numerous substituted triphenylenes. Thus, reaction of a sodium alkyl thiolate in dimethylethylideneurea solvent with 2,3,6,7,10,11-hexabromotriphenylene provides a 2,3,6,7,10,11-hexa(alkylthio)triphenylene. Reaction of sodium hydrosulfide with 2,3,6,7,10,11-hexabromotriphenylene provides a 2,3,6,7,10,11-hexamercaptotriphenylene. Reaction of Cu2Br2, Cu powder, ethylenediamine (excess serves as solvent) with 2,3,6,7,10,11-hexabromotriphenylene provides 2,3,6,7,10,11-tris(N,N'-ethylenediamino)triphenylene. Reaction of hexaketocyclohexane octahydrate and diaminomaleonitrile in acetic acid provides hexaazatriphenylenecarbonitrile which is then hydrolyzed to hexaazatriphenylenehexacarboxamide in concentrated sulfuric acid. The hexaazacarboxamide is then in turn subjected to diazotizing conditions by treatment of a solution in trifluoroacetic acid with sodium nitrite, the precipitation of the sodium salt followed by acidification with HCl to provide hexaazatriphenylenehexacarboxylic acid. Hexaazatriphenylenehexacarboxylic acid trianhydride is prepared by treatment of the hexaazacarboxylic acid with acetic anhydride at 115°±2° C. for 10 minutes. Multi((phenyl)alkynyl)triphenylenes are prepared by palladium catalyzed alkynylation of a hexahalotriphenylene, such as 2,3,6,7,10,11-hexabromotriphenylene with an (alkynylphenyl)acetylene. Reaction of hexa(hydroxy)triphenylene with 4-substituted benzoyl chlorides provides hexa(4-substituted benzoates) of triphenylene.

reactant | 4,4'-dimethyl-2-fluoro-2'-iodobiphenyl | CC1=CC(=C(C=C1)C1=C(C=C(C=C1)C)I)F | C14H12FI
reactant | n-butyllithium | C(CCC)[Li]
reactant | o-fluorobromobenzene | FC1=C(C=CC=C1)Br | C6H4BrF
reactant | 4-chloro-3-iodotoluene | ClC1=C(C=C(C=C1)C)I | C7H6ClI
reactant | 2-fluoro-4,5-dimethylbromobenzene | FC1=C(C=C(C(=C1)C)C)Br | C8H8BrF
solvent | ether | CCOCC | C4H10O
product | 2,7-dimethyltriphenylene | CC1=CC=2C3=CC=CC=C3C3=CC(=CC=C3C2C=C1)C | C20H16
